US07378409B2
(1R,3R,4S)-(4-Benzyloxycarbonylamino-3-hydroxymethylcyclohexyl)carbamic acid tert-butyl ester (1.0 g) was dissolved in CH2Cl2 (120 ml) and cooled to 0° C. prior to the addition of Et3N (0.5 mL) and methanesulfonyl chloride (0.55 mL). This mixture was warmed to RT and was stirred for 3 h. The CH2Cl2 was removed and EtOAc was added along with water. The organic layer was dried, filtered, and concentrated. This solid was dissolved in DMF (15 mL) and HMPA (2 mL) prior to the addition of NaSMe (1.1 g) and 18-crown-6 (500 mg). After 18 h, additional HMPA (0.5 mL) was added. After another 3 h, water was added and the solution was extracted with EtOAc. The organic layer was dried, filtered, and concentrated. Flash chromatography of the resulting residue gave (1R,3R,4S)-(4-benzyloxycarbonylamino-3-(methyl)thiomethylcyclohexyl)carbamic acid tert-butyl ester (1.1 g). MS found: (M+H)+=409.2.

reactant | (1R,3R,4S)-(4-Benzyloxycarbonylamino-3-hydroxymethylcyclohexyl)carbamic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CO)=O | C20H30N2O5
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.55 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | (1R,3R,4S)-(4-benzyloxycarbonylamino-3-(methyl)thiomethylcyclohexyl)carbamic acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CSC)=O | C21H32N2O4S
